US09403798B2
tert-Butyl 5-chloro-6-methoxy-5′,6′-dihydro-[2,4′-bipyridine]-1′(2′H)-carboxylate
To a 1,4-dioxane (50 mL)-water (10 mL) solution of 6-bromo-3-chloro-2-methoxypyridine (1.98 g, 8.90 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (2.50 g, 8.09 mmol), and sodium carbonate (1.71 g, 16.1 mmol), tetrakis(triphenylphosphine)palladium (0) (467 mg, 0.400 mmol) was added under argon atmosphere and the resultant mixture was stirred at 100° C. for 3 hours. After completion of the reaction, saturated ammonium chloride aqueous solution was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain the title compound (2.55 g, yield 97%).

reactant | 6-bromo-3-chloro-2-methoxypyridine | 8.90 mmol, 1.98 g | BrC1=CC=C(C(=N1)OC)Cl | C6H5BrClNO
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 8.09 mmol, 2.50 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | 16.1 mmol, 1.71 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.400 mmol, 467 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 5-chloro-6-methoxy-5′,6′-dihydro-[2,4′-bipyridine]-1′(2′H)-carboxylate | 2.55 g, yield 97% | ClC=1C=CC(=NC1OC)C1=CCN(CC1)C(=O)OC(C)(C)C | C16H21ClN2O3
